US04001222
3-(3-Aminopropionyl)-1-{[5-(4-cyanophenyl)furfurylidene]amino}hydantoin Hydrochloride
t-Butoxycarbonyl -β-alanine (16.1 g, 0.080 mole) in dimethylformamide (200 ml) was cooled to 0°, and triethylamine (23.8 ml, 0.17 mole) was rapidly added. The solution was kept at -5° to 0° while isobutylchloroformate (11.9 ml, 0.085 mole) was added dropwise. The solution was stirred 10 minutes and then 1-{[5-(4-cyanophenyl)furfurylidene]amino}hydantoin (recrystallized and predried at 100° overnight; 23.5 g, 0.080 mole) was rapidly added. The mixture was maintained at -5° to 0° for 0.5 hr and was then stirred 1 hour without cooling. The mixture was poured into a solution of ice water (1,400 ml) and concentrated hydrochloric acid (25 ml). The resulting solid was collected and air-dried. The product was dissolved in acetonitrile, filtered, and concentrated to a solid.

reactant | t-Butoxycarbonyl -β-alanine | 0.080 mole, 16.1 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | triethylamine | 0.17 mole, 23.8 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.085 mole, 11.9 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 1-{[5-(4-cyanophenyl)furfurylidene]amino}hydantoin | 0.080 mole, 23.5 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=NN2C(=O)NC(=O)C2)O1 | C15H10N4O3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-(3-Aminopropionyl)-1-{[5-(4-cyanophenyl)furfurylidene]amino}hydantoin Hydrochloride | Cl.NCCC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC=C(C=C1)C#N)=O | InChI=1S/C18H15N5O4.ClH/c19-8-7-16(24)23-17(25)11-22(18(23)26)21-10-14-5-6-15(27-14)13-3-1-12(9-20)2-4-13;/h1-6,10H,7-8,11,19H2;1H
